US04659500
5-n-butyl picolinic acid (1.8 g) and 3-fluoro-4-cyanophenol (1.4 g) were dissolved in methylene chloride (30 ml). While the resulting solution was kept at 0° C. or lower, a solution (20 ml) of dicyclohexylcarbodimide (2.1 g) in methylene chloride was dropped to the above solution, followed by further agitating for 3 hours, filtering off the resulting solids, adding 2N-NaOH aqueous solution to the filtrate, separating the methylene chloride layer, washing it with water till the washing water became neutral, distilling off the solvent from the methylene chloride layer and recrystallizing the residue from ethanol to obtain the objective 3-fluoro-4cyanophenyl 5-n-butylpicolinate (0.3 g) having a m.p. of 45.1°-46.1° C.

reactant | 5-n-butyl picolinic acid | 1.8 g | C(CCC)C=1C=CC(=NC1)C(=O)O | C10H13NO2
reactant | 3-fluoro-4-cyanophenol | 1.4 g | FC=1C=C(C=CC1C#N)O | C7H4FNO
reactant | dicyclohexylcarbodimide | 20 ml, 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-fluoro-4cyanophenyl 5-n-butylpicolinate | 0.3 g | C(CCC)C=1C=CC(=NC1)C(=O)OC1=CC(=C(C=C1)C#N)F | C17H15FN2O2
